US08957070B2
2-(Chloromethyl)-N-methyl-N-[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-3-sulfonamide
To a solution of 2-(hydroxymethyl)-N-methyl-N-[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-3-sulfonamide (405 mg) and triethylamine (167 μL) in tetrahydrofuran (5 mL) was added methanesulfonyl chloride (93 μL). The reaction mixture was stirred at room temperature for 10 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The obtained residue was crystallized from diethyl ether-hexane to give the title compound (360 mg, yield 85%) as colorless crystals. melting point 190° C.

reactant | 2-(hydroxymethyl)-N-methyl-N-[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-3-sulfonamide | 405 mg | OCC=1SC=CC1S(=O)(=O)N(C=1C=CC=C2C=C(NC12)C=1SC=CN1)C | C17H15N3O3S3
reactant | triethylamine | 167 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 93 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-(Chloromethyl)-N-methyl-N-[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-3-sulfonamide | 360 mg, yield 85% | ClCC=1SC=CC1S(=O)(=O)N(C=1C=CC=C2C=C(NC12)C=1SC=CN1)C | C17H14ClN3O2S3
